US04139617
5-Androstene-3β,17β,19-triol 17,19-diacetate is dissolved in methylenechloride and triethyloxonium fluoroborate added thereto. After stirring for a period of about two hours at room temperature, water is added to the reaction mixture. The methylenechloride layer is dried over magnesium sulfate and concentrated to dryness. The residue is crystallized from an acetone-hexane mixture to yield the desired 3β-ethoxy-5-androstene-17β,19-diol diacetate.

reactant | 5-Androstene-3β,17β,19-triol 17,19-diacetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(COC(C)=O)[C@H]1CC2)O | C23H34O5
reactant | triethyloxonium fluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | water | O | H2O
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 3β-ethoxy-5-androstene-17β,19-diol diacetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(COC(C)=O)[C@H]1CC2)OCC | C25H38O5
